US09193935B2
2.19: (5,7,7-Trimethyloct-2-enyl)benzene
Starting from phenethyltriphenylphosphonium bromide (2.80 g, 6.26 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.9 mL, 6.26 mmol, 1.0 equiv.) and 3,5,5-trimethylhexanal (1.33 g, 9.39 mmol, 1.5 equiv.), 0.94 g (65%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 6.26 mmol, 2.80 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 6.26 mmol, 1.6 M, 3.9 mL, 1.0 equiv. | [Li]CCCC
reactant | 3,5,5-trimethylhexanal | 9.39 mmol, 1.33 g, 1.5 equiv. | CC(CC=O)CC(C)(C)C | C9H18O
product | (5,7,7-Trimethyloct-2-enyl)benzene | 0.94 g, 65% | CC(CC=CCC1=CC=CC=C1)CC(C)(C)C | C17H26
